US04367234
5-(5-Chloro-2-methoxyphenyl)-3-ethoxycarbonyloxazolidine-2,4-dione
By the same method, but replacing ethyl chloroformate with an equivalent amount of dimethylcarbamoyl chloride, sodium 5-(5-chloro-2-methoxyphenyl)oxazolidine-2,4-dione is converted to 5-(5-chloro-2-methoxyphenyl)-3-dimethylcarbamoyloxazoldine-2,4-dione.

reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | dimethylcarbamoyl chloride | CN(C(=O)Cl)C | C3H6ClNO
reactant | sodium 5-(5-chloro-2-methoxyphenyl)oxazolidine-2,4-dione | ClC=1C=CC(=C(C1)C1C(NC(O1)=O)=O)OC.[Na]
reactant | 5-(5-chloro-2-methoxyphenyl)-3-dimethylcarbamoyloxazoldine-2,4-dione | ClC=1C=CC(=C(C1)C1C(N(C(O1)=O)C(N(C)C)=O)=O)OC | C13H13ClN2O5
product | 5-(5-Chloro-2-methoxyphenyl)-3-ethoxycarbonyloxazolidine-2,4-dione | ClC=1C=CC(=C(C1)C1C(N(C(O1)=O)C(=O)OCC)=O)OC | C13H12ClNO6
